US06667301B2
To a solution of 9 g (26.5 mmole) [(S)-2-(4-tert-butylphenyl)-1-methyl-2-oxoethyl]-carbamic acid benzyl ester o in 40 mL toluene and 10 mL 2-propanol was added dropwise a solution of 0.7 g (18.42 mmole) sodium borohydride in 2 mL water containing 1 drop 50% sodium hydroxide. The reaction mixture was stirred at room temperature for 15 hrs. The layers were separated and the organic phase was washed with 25 mL 10% sodium hydroxide. 2-Propanol was removed under reduced pressure and the remaining toluene solution was heated under reflux for 1 hr. The solvent was removed under reduced pressure. The residue was recrystallized from diethyl ether/hexane to provide (4S,5S)-5-(4-tert-butylphenyl)-4-methyl-oxazolidin-2-one p, 3 g; m.p. 199-200° C.

reactant | [(S)-2-(4-tert-butylphenyl)-1-methyl-2-oxoethyl]-carbamic acid benzyl ester | 26.5 mmole, 9 g | C(C1=CC=CC=C1)OC(N[C@H](C(=O)C1=CC=C(C=C1)C(C)(C)C)C)=O | C21H25NO3
reactant | 2-propanol | 10 mL | CC(C)O | C3H8O
reactant | sodium borohydride | 18.42 mmole, 0.7 g | [BH4-].[Na+]
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
catalyst | water | 2 mL | O | H2O
product | (4S,5S)-5-(4-tert-butylphenyl)-4-methyl-oxazolidin-2-one | C(C)(C)(C)C1=CC=C(C=C1)[C@H]1[C@@H](NC(O1)=O)C | C14H19NO2
